US09085555B2
A. (3-Chloro-5-dimethylcarbamoyl-2-fluoro-benzyl)-carbamic acid tert-butyl ester
A mixture of 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid (100 mg, 0.3 mmol), HATU (188 mg, 0.5 mmol), dimethylamine (0.2 mL, 2M in THF) and DIPEA (0.23 mL, 1.3 mmol) in DMF (2 mL) was stirred for 16 h at ambient temperature. The crude product was purified without aqueous workup by RP-preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 ml/min) to give the title compound. MS (LC-MS): 275.0 [M−55]+; tR (HPLC conditions c): 4.68 min.

reactant | 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid | 0.3 mmol, 100 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=C(C1F)Cl | C13H15ClFNO4
reactant | HATU | 0.5 mmol, 188 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dimethylamine | 2M, 0.2 mL | CNC | C2H7N
reactant | DIPEA | 1.3 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3-Chloro-5-dimethylcarbamoyl-2-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C(N(C)C)=O)Cl)F)=O | C15H20ClFN2O3
